US08912208B2
B. (4-{4-[5-(1-Methyl-1H-pyrazol-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
To a solution of (6-bromo-pyridin-3-yl)-(1-methyl-1H-pyrazol-3-yl)-amine (0.15 g, 0.6 mmol, 1.0 equiv) and {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.23 g, 0.7 mmol, 1.1 equiv) in 5 Ml DME was added 0.5 Ml saturated potassium carbonate solution followed by 5 mg Pd(PPh3)4 catalyst. The reaction was then heated to 80° C. for 2 h. Removal of volatiles in vacuo followed by silica gel chromatography (20% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.14-1.26 (m, 2 H) 1.54 (qd, J=12.59, 2.40 Hz, 2 H) 1.68 (br. S., 1 H) 1.87 (d, J=11.12 Hz, 5 H) 2.31 (d, J=6.57 Hz, 2 H) 3.66 (s, 3 H) 3.82 (s, 3 H) 5.86 (s, 1 H) 7.33 (d, J=8.34 Hz, 2 H) 7.59 (d, J=2.02 Hz, 1 H) 7.80 (d, J=8.84 Hz, 1 H) 7.93 (d, J=8.34 Hz, 2 H) 7.97 (dd, J=8.84, 2.78 Hz, 1H) 8.65 (d, J=2.27 Hz, 1 H) 8.83 (s, 1 H); (M+H)+ 405.2.

reactant | (6-bromo-pyridin-3-yl)-(1-methyl-1H-pyrazol-3-yl)-amine | 0.6 mmol, 0.15 g, 1.0 equiv | BrC1=CC=C(C=N1)NC1=NN(C=C1)C | C9H9BrN4
reactant | {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.7 mmol, 0.23 g, 1.1 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | (4-{4-[5-(1-Methyl-1H-pyrazol-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC1=NN(C=C1)C)=O | C24H28N4O2
